US07368453B2
Synthesis of N-(3-{2-[2-Fluoro-4-(Methyloxy)phenyl]Ethyl}-4-oxo-3,4-Dihydro-7-Quinazolinyl)-N′-[(1S,2S,3S,5R)-2,6,6-Trimethylbicyclo[3.1.1]Hept-3-yl]Carbodiimide
N-(3-{2-[2-fluoro-4-(methyloxy)phenyl]ethyl}-4-oxo-3,4-dihydro-7-quinazolinyl)-N′-[(1S,2S,3S,5R)-2,6,6-trimethylbicyclo[3.1.1]hept-3-yl]thiourea was gently stirred with Argonaut PS-Carbodiimide (1.5 eq) for 15 hours in THF. The resin was filtered off and the solution of carbodiimide A was diluted to a known volume to give a solution of known molarity.

reactant | N-(3-{2-[2-fluoro-4-(methyloxy)phenyl]ethyl}-4-oxo-3,4-dihydro-7-quinazolinyl)-N′-[(1S,2S,3S,5R)-2,6,6-trimethylbicyclo[3.1.1]hept-3-yl]thiourea | FC1=C(C=CC(=C1)OC)CCN1C=NC2=CC(=CC=C2C1=O)NC(=S)N[C@@H]1[C@H]([C@H]2C([C@@H](C1)C2)(C)C)C | C28H33FN4O2S
reactant | Carbodiimide | 1.5 eq | N=C=N | CH2N2
solvent | THF | C1CCOC1 | C4H8O
product | N-(3-{2-[2-Fluoro-4-(Methyloxy)phenyl]Ethyl}-4-oxo-3,4-Dihydro-7-Quinazolinyl)-N′-[(1S,2S,3S,5R)-2,6,6-Trimethylbicyclo[3.1.1]Hept-3-yl]Carbodiimide | FC1=C(C=CC(=C1)OC)CCN1C=NC2=CC(=CC=C2C1=O)N=C=N[C@@H]1[C@H]([C@H]2C([C@@H](C1)C2)(C)C)C | C28H31FN4O2
